US07851493B2
To a solution of 1.5 g of [4-(3-benzyloxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methanol in 15 mL of dichloromethane was added 1.026 mL of triethylamine and 0.484 mL of methanesulfonyl chloride. The resulting mixture was stirred at room temperature for 2 h. The mixture was then diluted with dichloromethane and water was added. The aqueous layer was separated and extracted three times with dichloromethane. The combined organic extracts were washed with water, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (heptane 90/ethyl acetate 10) to give 0.84 g of 4-(3-benzyloxy-propyl)-5-chloromethyl-2-(4-trifluoromethyl-phenyl)-thiazole as a yellow oil.

reactant | [4-(3-benzyloxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methanol | 1.5 g | C(C1=CC=CC=C1)OCCCC=1N=C(SC1CO)C1=CC=C(C=C1)C(F)(F)F | C21H20F3NO2S
reactant | triethylamine | 1.026 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.484 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-(3-benzyloxy-propyl)-5-chloromethyl-2-(4-trifluoromethyl-phenyl)-thiazole | 0.84 g | C(C1=CC=CC=C1)OCCCC=1N=C(SC1CCl)C1=CC=C(C=C1)C(F)(F)F | C21H19ClF3NOS
